US07423030B2
1.1. 2-benzoyl-5-methoxybenzoic acid
A solution of 2-bromo-5-methoxybenzoic acid (5 g, 21.6 mmol) in 50 mL of THF is stirred under argon at −78° C., and a 1.6 M solution of n-butyllithium in hexane (29 mL, 45 mmol) is then added dropwise. The reaction mixture is stirred for 1 hour at −78° C. and benzoyl chloride (3.2 g, 22.7 mmol) is then added dropwise. The reaction mixture is stirred for 1 hour 30 minutes at −78° C. and then for 18 hours at room temperature. The mixture is hydrolysed with 100 mL water and then washed with ethyl acetate. The aqueous phase is acidified by addition of 5 N hydrochloric acid and then extracted with ethyl acetate. The organic phase obtained is washed with brine and then dried over anhydrous sodium sulfate. After filtration and evaporation under reduced pressure, 5.4 g of a colourless oil are obtained, and are used without purification.

reactant | 2-bromo-5-methoxybenzoic acid | 21.6 mmol, 5 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 45 mmol, 29 mL | CCCCCC | C6H14
reactant | benzoyl chloride | 22.7 mmol, 3.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 2-benzoyl-5-methoxybenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=C(C=C1)OC | C15H12O4
